US07067517B2
(4-Methoxy-phenyl)-methyl-carbamic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester
The title product was prepared from N-methyl-p-anisidine and 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate, preparative HPLC (method C) (61%, off-white crystals). HPLC-MS m/z=419.2 (M+1), Rt: 4.67 min.

reactant | N-methyl-p-anisidine | CNC1=CC=C(OC)C=C1 | C8H11NO
reactant | 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)OC1=NC=C(C=C1)C(F)(F)F | C13H7ClF3NO3
product | (4-Methoxy-phenyl)-methyl-carbamic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)OC(N(C)C1=CC=C(C=C1)OC)=O)(F)F | C21H17F3N2O4
